US07781598B2
Trichloroisocyanuric acid (0.30 g, 1.3 mmol) was added to a solution of bis(p-chlorophenyl)disulphide (1.08 g, 3.8 mmol) in ethyl acetate (10 ml) at ambient temperature resulting in formation of a yellow suspension. After stirring for 30 minutes at this temperature, a slurry of (4-nitro-2-methyl-1H-indol-1-yl)-acetic acid, ethyl ester (2.0 g, 7.6 mmol) in ethyl acetate (10 ml) was added followed by an ethyl acetate rinse (4 ml), using water bath cooling to control the mild exotherm. Stirring was continued for 35 minutes at ambient temperature. Aqueous sodium bicarbonate (5%, 20 ml) was added followed by water (20 ml). After stirring for 45 minutes, ethyl acetate was removed by evaporation, the solid product collected by filtration, washed with water (2×10 ml), followed by 50% v/v aqueous acetonitrile (2×10 ml) then dried overnight in a vacuum oven at 45° C. to provide [3-(4-chlorophenylsulfanyl)-2-methyl-4-nitro-1H-indol-1-yl]acetic acid, ethyl ester as a bright yellow solid, 2.95 g (96%).

reactant | Trichloroisocyanuric acid | 1.3 mmol, 0.30 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
reactant | bis(p-chlorophenyl)disulphide | 3.8 mmol, 1.08 g | ClC1=CC=C(C=C1)SSC1=CC=C(C=C1)Cl | C12H8Cl2S2
reactant | (4-nitro-2-methyl-1H-indol-1-yl)-acetic acid, ethyl ester | 7.6 mmol, 2.0 g | [N+](=O)([O-])C1=C2C=C(N(C2=CC=C1)CC(=O)OCC)C | C13H14N2O4
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | [3-(4-chlorophenylsulfanyl)-2-methyl-4-nitro-1H-indol-1-yl]acetic acid, ethyl ester | ClC1=CC=C(C=C1)SC1=C(N(C2=CC=CC(=C12)[N+](=O)[O-])CC(=O)OCC)C | C19H17ClN2O4S
